US07851473B2
(1) 2,2,2-Trichloroethyl (6-chloroimidazo[1,2-b]pyridazin-2-yl)carbamate
To a solution of 6-chloroimidazo[1,2-b]pyridazine-2-amine (561 g, 3.3 mmol) in dimethylacetamide (11 ml) was added 2,2,2-trichloroethyl chloroformate (0.506 ml, 3.66 mmol) with ice-cooling, and the mixture was stirred at room temperature for 1 hour. Water was poured into the reaction solution, and a solid was separated by filtration, which was washed with water to give 724 mg (63.3%) of the desired product as a solid.

reactant | 6-chloroimidazo[1,2-b]pyridazine-2-amine | 3.3 mmol, 561 g | ClC=1C=CC=2N(N1)C=C(N2)N | C6H5ClN4
reactant | 2,2,2-trichloroethyl chloroformate | 3.66 mmol, 0.506 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | dimethylacetamide | 11 ml | CC(=O)N(C)C | C4H9NO
product | 2,2,2-Trichloroethyl (6-chloroimidazo[1,2-b]pyridazin-2-yl)carbamate | 724 mg, 63.3% | ClC=1C=CC=2N(N1)C=C(N2)NC(OCC(Cl)(Cl)Cl)=O | C9H6Cl4N4O2
